### PR TITLE
Add Erdős Problem 185 (Moser's cube problem), link the formal proof

### LINKED ISSUE #6205: Erdős Problem 185
### What is the Erdős problem?

https://www.erdosproblems.com/185

Let $f_3(n)$ be the maximal size of a subset of $\{0,1,2\}^n$ which contains no three points on a line. Is it true that $f_3(n)=o(3^n)$?

Status: proved (Lean). Moser's problem; a corollary of the density Hales–Jewett theorem (Furstenberg–Katznelson). A formal proof exists in plby/lean-proofs (`Erdos185.erdos_185`, Codex, following Dodos–Kanellopoulos–Tyros).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6205.

### What changed
Adds `FormalConjectures/ErdosProblems/185.lean` with `f3 n` (largest subset of `{0,1,2}^n` with no three collinear points, via Mathlib's `Collinear ℝ` in `Fin n → ℝ`) and:
- `erdos_185` (`research solved`, `answer(True)`): `f₃(n) = o(3^n)` (Furstenberg–Katznelson [FuKa91]). Linked to plby/lean-proofs `Erdos185.erdos_185` (Codex; 29 Mathlib-only files, deriving it from their density Hales–Jewett development).
- `erdos_185.variants.moser` (`research solved`): Moser's lower bound `f₃(n) ≫ 3^n/√n`.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos185.erdos_185` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby's `f3` is a `Finset.sup` over Moser sets; the `sSup` here agrees):

<details>
<summary>Bridge</summary>

```lean
open Filter Asymptotics

namespace Bridge185

lemma f3_eq (n : ℕ) : Erdos185.f3 n = Erdos185Plby.f3 n := by
  classical
  unfold Erdos185.f3
  apply le_antisymm
  · apply csSup_le'
    rintro m ⟨A, hA, rfl⟩
    exact Erdos185Plby.card_le_f3 hA
  · obtain ⟨A, hA, hcard⟩ := Finset.exists_mem_eq_sup _ (Erdos185Plby.candidates_nonempty n)
      Finset.card
    refine le_csSup ⟨3 ^ n, ?_⟩ ⟨A, Erdos185Plby.mem_candidates_iff.1 hA, hcard.symm⟩
    rintro m ⟨B, -, rfl⟩
    simpa using Finset.card_le_univ B

theorem erdos_185_bridge : type_of% Erdos185.erdos_185 := by
  show True ↔ _
  simp only [true_iff, f3_eq]
  exact Erdos185Plby.erdos_185

end Bridge185
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«185»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/185.lean [hunk 1]
```diff
@@ -0,0 +1,68 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/185.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
